Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HA, HTN

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with PMhx of Asthma, HTN and Migraines who p/w severe 
HA
in setting of very elevated BP.   Pt reports feeling generally
unwell for most of this week.  She was tired with HA, dizziness
and lightheadedness.  On ___, she noticed intermittent
blurriness of her left eye that was not correcting with her
glasses.   She kept going to work and it wasn't until ___ 
when
one of the nurses in her office recommended checking her BP and
it was very high 200/100s.  Pt called her PCP and was referred
into the ED for urgent evaluation.

In the ED, pt was afebrile with HR 84, BP 196/128, RR 20 and 
Sats
98% on RA. She underwent EKG that showed NSR with LVH, CXR
without any acute process, CT head without any acute process. 
LAbs notable for normal CBC, LFTs, renal function and negative
troponin.  UA was contaminated and showed trace protein. Pt was
given SL Nitro and started on Nicardipine gtt for ___ hrs.  Pt
received Morphine for HA, Metoprolol 12.5mg once, Toradol 15mg,
Reglan 10mg, Diphenhydramine 25mg.

On arrival to the floor, pt reported feeling better with mild
residual HA, currently ___.  She was resting with the lights
down to prevent worsening the HA.  She denied any CP, SOB, ___
edema, PND, orthopnea, confusion, weight loss, new medication
exposure or skin changes.  She reports some mild abdominal
cramping but denies any N/V/D, dysuria or constipation.   With
regards to the left eye blurry vision, she denies any spots but
has noted blurriness that began on ___ and is worse than
baseline but has been waxing and waning for the last ___ days. 
Typically her glasses correct for the blurriness but it doesn't
seem to be helping currently.  She denies any numbness, tingling
or weakness.

12 pt ROS otherwise negative 

 
Past Medical History:
1.  Hypertension.  
2.  Migraine headaches.
3.  Asthma.
4.  Surgery for ectopic pregnancy several years ago.
5.  History of heart murmur

 
Social History:
___
Family History:
strong family history of hypertension.  

 
Physical Exam:
Admission physical exam
==========================
___ 0232 Temp: 97.8 PO BP: 104/74 HR: 72 RR: 16 O2 sat: 97%
O2 delivery: Ra 
GEN: pleasant female in NAD, lying in the dark
HEENT: corrective glasses on, no conjunctival injection, EOMI
CV: RRR no apprec m
RESP: CTAB no w/r
ABD: soft, NT, ND, NABS
GU: no foley
EXTR: warm, no edema
PSYCH: calm, no agitation, tired and asking to sleep 

Discharge physical exam
=========================

SBPs in the 150s for the previous 24 hours. Overwise VSS. Exam 
unchanged.
 
Pertinent Results:
Admission labs
================
___ 10:50AM BLOOD WBC-7.6 RBC-4.44 Hgb-13.0 Hct-40.0 MCV-90 
MCH-29.3 MCHC-32.5 RDW-12.7 RDWSD-41.5 Plt ___
___ 10:50AM BLOOD Plt ___
___ 10:50AM BLOOD Glucose-104* UreaN-11 Creat-0.9 Na-138 
K-4.4 Cl-100 HCO3-22 AnGap-16
___ 10:50AM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.1 Mg-1.9

Discharge labs
===============

___ 06:25AM BLOOD WBC-7.7 RBC-4.01 Hgb-11.8 Hct-36.9 MCV-92 
MCH-29.4 MCHC-32.0 RDW-12.9 RDWSD-43.8 Plt ___
___ 06:25AM BLOOD Glucose-95 UreaN-16 Creat-0.7 Na-140 
K-4.1 Cl-103 HCO3-26 AnGap-11
___ 10:50AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.0

 
Brief Hospital Course:
___ is a ___ y/o F with PMHx of HTN (poorly controlled), 
asthma and migraines who p/w HA, dizzinesss, visual changes and 
acute hypertensive urgency/emergency.

# Hypertensive urgency/emergency: pt was given SL nitro and 
started on nicardipine gtt in the ED.  BP trended down rapidly 
and nicardipine gtt was stopped after a decrease greater than 
the recommended ___ in the first 24 hours. Headaches improved 
since admission and left eye symptoms also improved. Etiology of 
condition is due to not taking her blood pressure meds (e.g., 
likely 3 doses in the past 4 months) Restarted amlodipine 5mg 
daily.

# Visual changes (L eye blurry vision> R eye): Pt reported that 
left eye periphery has decreased vision compared to right - 
though improving as of ___. Had been waxing and waning in 
the past few days. CT head without any ICH and Ophtho eval and
MRI head and orbit with no findings to explain symptoms

# HA/migraines: improved on arrival to the floor after 
toradol,Benadryl and Reglan.  Stable currently

# Asthma: resumed home inhalers

TRANSITIONAL ISSUES
===========================
- Restarted BP meds: Amlodipine 5mg. Will follow up with new PCP 
and consider starting chlorthalidone.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
3.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
4. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you follow up 
with your primary care provider.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive emergency
Headache migraines
Visual changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted due to very elevated blood pressures. Your 
blood pressures were elevated likely in the setting of not 
taking your medications.

You also had visual changes and headache which improved once 
your blood pressure were controlled.

We recommend taking your medications as prescribed every day and 
frequently follow up with your doctors.

___ was a pleasure being part of your care

Your ___ team
 
Followup Instructions:
___